US07183273B2
AMD8746: Preparation of N-(2-pyridinylmethyl)-N′-(1,2,3,4-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (hydrobromide salt)
A stirred solution of 8-amino-1,2,3,4-tetrahydroquinoline (0.136 g, 0.92 mmol) and N-[1-methylene-4-(carboxaldehyde)phenylene]-N-(2-nitrobenzenesulfonyl)-2-(aminomethyl)pyridine (0.370 g, 0.90 mmol) in benzene (20 mL) was heated to reflux under Dean-Stark conditions for 24 hours. The mixture was concentrated, dissolved in MeOH (10 mL) and THF (2 mL) and treated with NaBH3CN (0.094 g, 1.49 mmol) for 72 hours. The mixture was concentrated and partitioned between CH2Cl2 (20 mL) and a 1.0 M aqueous solution of NaOH (5 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by flash chromatography (24 g silica gel, 20:1 CH2Cl2-CH3OH) gave the desired product (0.137 g).

reactant | 8-amino-1,2,3,4-tetrahydroquinoline | 0.92 mmol, 0.136 g | NC=1C=CC=C2CCCNC12 | C9H12N2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | NaBH3CN | 1.49 mmol, 0.094 g | [BH3-]C#N.[Na+]
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | N-(2-pyridinylmethyl)-N′-(1,2,3,4-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.137 g | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CNC=1C=CC=C2CCCNC12 | C23H26N4
